US06166064
3-Methylsulfinyl-benzenesulfonamide
A mixture of 3-methylsulfanyl-benzenesulfonamide (406 mg, 2 mmol) and N-chlorosuccinimide (268 mg, 2 mmol) in methanol was stirred at room temperature for 8 hours. The methanol was evaporated and the residue was slurried with methylene chloride and filtered. The filtrate was evaporated to give 250 mg of the titled compound as a white solid.

reactant | 3-methylsulfanyl-benzenesulfonamide | 2 mmol, 406 mg | CSC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO2S2
reactant | N-chlorosuccinimide | 2 mmol, 268 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methanol | CO | CH4O
product | 3-Methylsulfinyl-benzenesulfonamide | 250 mg | CS(=O)C=1C=C(C=CC1)S(=O)(=O)N | C7H9NO3S2
